US08871790B2
Compound 461.1. 4-Methoxyhepta-1,6-diene
Into a round-bottom flask, was placed a solution of hepta-1,6-dien-4-ol (2.00 g, 17.8 mmol, 1.00 equiv) and iodomethane (5.00 g, 35.2 mmol, 2.00 equiv) in tetrahydrofuran (30 mL). The solution was cooled to 0° C. and sodium hydride (1.00 g, 25.0 mmol, 1.50 equiv, 60% in mineral oil) was added to the reaction in portions. The resulting mixture was stirred overnight at room temperature, then carefully quenched with water (5 mL) and diluted with of ether (30 mL). The organics was washed with brine (2×20 mL), dried (Na2SO4), filtered and concentrated in vacuo to obtain the title compound as a colorless oil (2.00 g, 84%).

reactant | hepta-1,6-dien-4-ol | 17.8 mmol, 2.00 g, 1.00 equiv | C=CCC(CC=C)O | C7H12O
reactant | iodomethane | 35.2 mmol, 5.00 g, 2.00 equiv | IC | CH3I
reactant | sodium hydride | 25.0 mmol, 1.00 g, 1.50 equiv | [H-].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-Methoxyhepta-1,6-diene | 2.00 g, 84% | COC(CC=C)CC=C | C8H14O
